US04477466
Step A: Preparation of 2,2-Dimethyl-3-dimethylaminopropionyl chloride hydrochloride
A mixture of 2,2-dimethyl-3-dimethylaminopropionic acid hydrochloride (1.76 g, 0.00969 mole) and thionyl chloride (10 ml) was heated under reflux for 30 minutes.

reactant | 2,2-dimethyl-3-dimethylaminopropionic acid hydrochloride | 0.00969 mole, 1.76 g | Cl.CC(C(=O)O)(CN(C)C)C
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,2-Dimethyl-3-dimethylaminopropionyl chloride hydrochloride | Cl.CC(C(=O)Cl)(CN(C)C)C | InChI=1S/C7H14ClNO.ClH/c1-7(2,6(8)10)5-9(3)4;/h5H2,1-4H3;1H
